US09376422B2
Step 4: synthesis of methyl 3-((4-((tert-butoxycarbonyl)amino)cyclohexyl)-(ethyl)-amino)-5-(2-methoxyethoxy)-2-methylbenzoate
To a stirred solution of methyl 3-((4-((tert-butoxycarbonyl)amino)cyclohexyl)amino)-5-(2-methoxyethoxy)-2-methylbenzoate (1.60 g, 3.67 mmol) and acetaldehyde (0.48 g, 10.9 mmol) in dichloroethane (20 mL) was added acetic acid (1.3 g, 22 mmol) and the reaction mixture stirred at room temperature for 20 minutes. Then sodium triacetoxyborohydride (2.33 g. 11.0 mmol) was added at 0° C. and the reaction was stirred at room temperature for 2 h. The reaction was quenched with aqueous sodium bicarbonate, the organic phase separated and the aqueous phase extracted with dichloromethane. The combined organic layers were washed with water, dried, concentrated under reduced pressure, the crude material was purified by column chromatography to afford the title compound (1.6 g, 94%).

reactant | methyl 3-((4-((tert-butoxycarbonyl)amino)cyclohexyl)amino)-5-(2-methoxyethoxy)-2-methylbenzoate | 3.67 mmol, 1.60 g | C(C)(C)(C)OC(=O)NC1CCC(CC1)NC=1C(=C(C(=O)OC)C=C(C1)OCCOC)C | C23H36N2O6
reactant | acetaldehyde | 10.9 mmol, 0.48 g | C(C)=O | C2H4O
reactant | acetic acid | 22 mmol, 1.3 g | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 11.0 mmol, 2.33 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 20 mL | ClC(C)Cl | C2H4Cl2
product | methyl 3-((4-((tert-butoxycarbonyl)amino)cyclohexyl)-(ethyl)-amino)-5-(2-methoxyethoxy)-2-methylbenzoate | 1.6 g, 94% | C(C)(C)(C)OC(=O)NC1CCC(CC1)N(C=1C(=C(C(=O)OC)C=C(C1)OCCOC)C)CC | C25H40N2O6
